US06149890
1/5 of a 4-toluenesulfonic acid solution (PTSA H2O, 43.28 g; 0.228 mol) in CH3CN (400 mL) was added to a solution of the aziridine obtained at the previous step (229.13 g; GC 89%; 0.805 mol) and 9,10-dicyanoanthracene (DCA) (1.69 g; 7.40 mmol) in CH3CN (4.5 L). After 45 min, the remaining acid catalyst was added drop by drop to the reaction mixture in 6 hours, by means of the syringe pump. After 7.5 hours, heating and lighting were stopped. After 18 hours, water (0.5 L) and solid K2CO3 (40 g) were added with strong stirring. The organic solvent was evaporated off and the aqueous phase was extracted with CHCl3. The combined organic phases were washed with buffer 0.1M KH2PO4 /K2HPO4 at pH 7 (0.5 L), then dried over MgSO4. The crude oil resulting from the evaporation of the solvent (272.5 g) was purified by flash chromatography (CH3Cl/CH3OH/25% NH4OH (w/w) 1000:13:3 (v/v)), thereby obtaining the desired compound (51.64 g; 51.0 mmol).

reactant | 4-toluenesulfonic acid | 0.228 mol, 43.28 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | aziridine | N1CC1 | C2H5N
reactant | CH3CN | 400 mL | CC#N | C2H3N
reactant | CH3CN | 4.5 L | CC#N | C2H3N
product | 9,10-dicyanoanthracene | 7.40 mmol, 1.69 g | C(#N)C=1C2=CC=CC=C2C(=C2C=CC=CC12)C#N | C16H8N2
